PCB_Project
*SPICE Netlist generated by Advanced Sim server on 23/01/2019 18:08:41

*Schematic Netlist:
C1 0 NetC1_2 300nF
C2 0 NetC2_2 0.01uF
R1 NetR1_1 VCC10 10K
R2 NetC1_2 NetR1_1 10K

.SAVE 0 NetC1_2 NetC2_2 NetR1_1 VCC10 @C1[i] @C2[i] @R1[i] @R2[i] @C1[p] @C2[p]
.SAVE @R1[p] @R2[p]

*PLOT TRAN -1 1 A=NetC1_2
*PLOT OP -1 1 A=NetC1_2

*Selected Circuit Analyses:
.TRAN 2E-8 5E-6 0 2E-8
.OP

.END
